US07691843B2
3,5-Diallyl-4-methoxybenzoic acid methyl ester was prepared from 3,5-diallyl-4-hydroxybenzoic acid methyl ester and methyl iodide following Method C. The resulting product was used without further purification.

reactant | 3,5-diallyl-4-hydroxybenzoic acid methyl ester | COC(C1=CC(=C(C(=C1)CC=C)O)CC=C)=O | C14H16O3
reactant | methyl iodide | CI | CH3I
product | 3,5-Diallyl-4-methoxybenzoic acid methyl ester | COC(C1=CC(=C(C(=C1)CC=C)OC)CC=C)=O | C15H18O3
